US04198409
1-(2-methylphenyl)-4-ethylamino-1,2-dihydro-1,3,5-triazine-2-one
To a magnetically stirred suspension of 9.02 g (35.2 mmol) of 1-(2-methylphenyl)-3-ethylamidinourea hydrochloride in 30 ml of CH3CN, was added 8.40 g (70.5 mmol) of N,N-dimethylformamide dimethylacetal and 20 ml of CH3CN. All of the solid dissolved. The reaction mixture was refluxed for two hours, allowed to come to ambient temperature, and partitioned between CHCl3 and H2O.

reactant | 1-(2-methylphenyl)-3-ethylamidinourea hydrochloride | 35.2 mmol, 9.02 g | Cl.CC1=C(C=CC=C1)NC(=O)NC(NCC)=N
reactant | N,N-dimethylformamide dimethylacetal | 70.5 mmol, 8.40 g | COC(N(C)C)OC | C5H13NO2
solvent | CH3CN | 30 ml | CC#N | C2H3N
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 1-(2-methylphenyl)-4-ethylamino-1,2-dihydro-1,3,5-triazine-2-one | CC1=C(C=CC=C1)N1C(N=C(N=C1)NCC)=O | C12H14N4O
